US07709645B2
A vial is charged with 120 mg (0.49 mmol) of 2-amino-5-bromo-N,N-dimethyl-benzamide, 11.4 mg (12 μmol) of tris(dibenzylideneacetone)dipalladium(0), 15.9 mg (27 μmol) of 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (XantPhos), 290 mg (0.89 mmol) of cesium carbonate, and 159 mg (1.00 mmol) of 5-bromo-pyrimidine. The vial is flushed with nitrogen and 2 mL of anhydrous 1,4-dioxane are added. The vial is sealed and heated to 100° C. for 17 h. The resulting mixture is diluted with methanol and dichloromethane and filtered over a 0.45 μm PTFE syringe filter. The filtrate is evaporated and the residue purified by flash chromatography on silica gel using a gradient of ethyl acetate containing 10% v/v of methanol in hexanes to afford 115.6 mg (0.39 mmol, 80%) of 5-bromo-N,N-dimethyl-2-(pyrimidin-5-ylamino)-benzamide as an ivory solid. 1H-NMR (500 MHz, d6-DMSO): δ 8.66 (s, 1H), 8.48 (s, 2H), 8.13 (s, br., 1H), 7.51 (dd, 1H), 7.43 (d, 1H), 7.23 (d, 1H), 2.86 (s, 3H), 2.81 (s, 3H); MS: m/z 321.0+323.0 (M+H+).

reactant | 2-amino-5-bromo-N,N-dimethyl-benzamide | 0.49 mmol, 120 mg | NC1=C(C(=O)N(C)C)C=C(C=C1)Br | C9H11BrN2O
reactant | cesium carbonate | 0.89 mmol, 290 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-pyrimidine | 1.00 mmol, 159 mg | BrC=1C=NC=NC1 | C4H3BrN2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 12 μmol, 11.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 27 μmol, 15.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 5-bromo-N,N-dimethyl-2-(pyrimidin-5-ylamino)-benzamide | 0.39 mmol, 115.6 mg, 80% | BrC=1C=CC(=C(C(=O)N(C)C)C1)NC=1C=NC=NC1 | C13H13BrN4O
